* /Users/anshumanmishra/Desktop/SQwave.asc
XU1 N003 N001 N002 N004 Output LM741/NS
V1 N002 0 15
V2 N004 0 -15
R1 Output N003 1000
R2 N003 0 1000
R3 Output N001 45k
C1 N001 0 0.1µ
.include /Users/anshumanmishra/Desktop/LM741.MOD
.tran 90m
.backanno
.end
